US07968585B2
5-bromo-1,3-dichloro-2-methylbenzene
Suspend the 3,5-dichloro-4-methylaniline in 48% HBr (5 mL) and water (5 mL) and heat with a heat gun until the mixture is near the boiling point. Cool the slurry to room temperature and then cool to 0° C. with an ice/brine bath. Add a solution of sodium nitrite (109 mg, 1.58 mmol) in water (2 mL) dropwise. After the addition is complete, stir the reaction an additional 15 min in the cold bath. Add a solution of CuBr (1.08 g, 7.53 mmol) in 48% HBr (2 mL) and heat the rapidly stirring reaction to 50° C. for 1 hour. Cool the reaction to room temperature, dilute the reaction with ethyl acetate and discard the aqueous layer. Wash the organic layer with water and brine, dry with MgSO4, filter through celite and concentrate to an orange residue. Purify the residue by silica gel chromatography eluting with hexanes to afford 164 mg (45%) of the product as a yellow solid.

reactant | 3,5-dichloro-4-methylaniline | ClC=1C=C(N)C=C(C1C)Cl | C7H7Cl2N
reactant | sodium nitrite | 1.58 mmol, 109 mg | N(=O)[O-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | HBr | 5 mL | Br | BrH
reactant | HBr | 2 mL | Br | BrH
solvent | water | 5 mL | O | H2O
solvent | water | 2 mL | O | H2O
product | 5-bromo-1,3-dichloro-2-methylbenzene | 164 mg, 45% | BrC=1C=C(C(=C(C1)Cl)C)Cl | C7H5BrCl2
